US08455488B2
Synthesis of (S)-tert-butyl 3-(2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetamido)-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate (Compound II-30)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 89 mg (0.33 mmol) was coupled with (S)-tert-butyl 3-amino-4-(((S)-1,1-diethoxypropan-2-yl)-(naphthalen-1-ylmethyl)amino)-4-oxobutanoate (Compound IV-16) 100 mg (0.22 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.33 mmol, 89 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | (S)-tert-butyl 3-amino-4-(((S)-1,1-diethoxypropan-2-yl)-(naphthalen-1-ylmethyl)amino)-4-oxobutanoate | 0.22 mmol, 100 mg | N[C@@H](CC(=O)OC(C)(C)C)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C26H38N2O5
product | (S)-tert-butyl 3-(2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetamido)-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate | ClC1=CC=C(CNC(=O)NN(C)CC(=O)N[C@@H](CC(=O)OC(C)(C)C)C(=O)N(CC2=CC=CC3=CC=CC=C23)[C@H](C(OCC)OCC)C)C=C1 | C37H50ClN5O7
